US05262420
Preparation of 1-(3-chlorophenyl)-4-(3-methyl-4-pyridyl) butane
1.0 g (9.35 mmol) of 3,4-dimethylpyridine and 2.18 g (9.35 mmol) of 1-bromo-3-(3-chlorophenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 1.11 g of the desired compound (yield: 5.9%).

reactant | 3,4-dimethylpyridine | 9.35 mmol, 1.0 g | CC=1C=NC=CC1C | C7H9N
reactant | 1-bromo-3-(3-chlorophenyl)-propane | 9.35 mmol, 2.18 g | BrCCCC1=CC(=CC=C1)Cl | C9H10BrCl
product | 1-(3-chlorophenyl)-4-(3-methyl-4-pyridyl) butane | 1.11 g, yield: 5.9% | ClC=1C=C(C=CC1)CCCCC1=C(C=NC=C1)C | C16H18ClN
